### ISSUE TITLE
RFC: Show elaboration error of tactics even if a later tactic contains a parse error

### ISSUE THREAD

**Issue by fpvandoorn** [leanprover/lean4#6580]
### Proposal

This is a follow-up of #3556. For new users it can be confusing that parse errors in tactics will prevent any elaboration errors in previous tactics from showing. 

**Proposal** if a tactic `t` raises a parse error, Lean should still execute other tactics and raise their errors using the same behavior as when `t` would have raised an execution error. 

**Example**:
```lean
example /- 1 -/ : False := by
  apply True.intro -- error is shown

example /- 2 -/ : False := by
  apply True.intro -- no error
  simp [

example /- 3 -/ : False := by
  apply True.intro -- no error
  sim

example /- 4 -/ : False := by
  apply True.intro -- no error
  all_goals {

example /- 5 -/  : False := by
  · apply True.intro -- error is shown
    sim

example /- 6 -/ : False ∧ False := by
  constructor
  · apply True.intro  -- error is shown
    sim
  · apply True.intro -- no error
```
Example 1 raises an expected error, which is not shown in examples 2-4 because of parse errors in later tactics. These tactics should also raise elaboration errors for the `apply` tactic.
Interestingly, when indented with `·`, the elaboration error is shown (example 5).
Example 6 is trickier: if there is only an elaboration error on branch 1, branch 2 still raises elaboration errors. If there is a parse error on branch 1, branch 2 is silent.
Ideally `apply True.intro` raises an error in all these examples.
 
- **User Experience**: Should inform new users that their code contains errors more quickly.

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others benefit from the changes in this proposal being added, please ask them to add :+1: to it.

**Comment by Kha** [comment]
RFC accepted! We should be able to reuse the infrastructure of #3556 for this but some new subtleties are bound to arise during that.

**Comment by nomeata** [comment]
We just hit this one during the tea time session, and it was causing confusion.
